### PR TITLE
feat: Adding proofs of correctness and time complexity of insertion sort

### PR DESCRIPTION
**Pull request by bhargavkulk**
I have added the file `InsertionSort.lean` in this PR. I am aware that `List.insertionSort` exists, but it is not instrumented with `tick`, which does not make it possible to write the complexity proof. I have chosen the worst case time bound as `n^2` but the same proof discharges for `n(n+1)/2`. I know I have not added the required documentation in this PR, but I first want to get an OK for the actual proofs implemented.

I think insertion sort, while a very simple algorithm, merits its inclusion because more complicated sorts implemented in the standard libraries of programming languages (like "TimSort" in Python) use insertion sort to quickly sort smaller sub-arrays as insertion sort is faster than divide-and-conquer based comparison sorts like merge and quick sort for very small arrays. I believe that the proofs in this file would aid future proofs about these hybrid in-actual-use sorts.

### CODE REVIEW

**Comment by Shreyas4991** [comment]
I think this PR should be put on hold until we reach a decision on #275, specifically [this question](https://github.com/leanprover/cslib/pull/275#discussion_r2723854311)

**Comment by chenson2018** [comment]
Hi Bhargav, thanks for interest in contributing! Just to add context to the above comment, I think this sort of PR will be welcome, but there is some infrastructure flux at the moment.

In the meantime could you add the standard copyright header and address the CI failure? Thanks!

**Comment by bhargavkulk** [comment]
I have added the copyright header and fixed the CI error.

**Comment by fmontesi** [comment]
@sorrachai Can you review this code?

**Comment by bhargavkulk** [comment]
@sorrachai I have added doc comments and edited the code to meet the style guide. Let me know id anything else is missing!

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+
+set_option autoImplicit false
+
+namespace Cslib.Algorithms.Lean.TimeM
+
+variable {α : Type} [LinearOrder α]
+
+/-- Inserts an element into a list, counting comparisons as time cost.
+Returns a `TimeM (List α)` where the time represents the number of comparisons performed. -/
+def insert : α → List α → TimeM (List α)
```
Comment (chenson2018) [inline Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean]: Please merge `main`. This signature should now use `TimeM ℕ (List α)`.

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+open List
+
+@[grind →]
+theorem mem_either_insert (xs : List α) (a b : α) (hz : a ∈ ⟪insert b xs⟫) : a = b ∨ a ∈ xs := by
+  fun_induction insert with
+  | case1 _ => simp only [Pure.pure, pure, mem_cons, not_mem_nil, or_false] at hz; exact Or.inl hz
+  | case2 x y ys ih =>
+    simp_all only [Bind.bind, Pure.pure]
+    simp at hz
+    grind
```
Comment (chenson2018) [inline Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean]: You should not need to simplify `pure` in this way. This can all be just

```suggestion
  fun_induction insert <;> grind
```

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean [hunk 3]
```diff
@@ -0,0 +1,143 @@
...
+
+/-- A list is sorted if it satisfies the `Pairwise (· ≤ ·)` predicate. -/
+abbrev IsSorted (l : List α) : Prop := List.Pairwise (· ≤ ·) l
```
Comment (chenson2018) [inline Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean:68]: I think we should use `List.SortedLE` for this.

At minimum you can't have this duplicated because it will cause a failure in importing this alongside the merge sort module. This declaration `Cslib.Algorithms.Lean.TimeM.IsSorted` should probably never have been namespaced in this way.

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean [hunk 4]
```diff
@@ -0,0 +1,143 @@
...
+
+theorem sorted_insert {x : α} {xs : List α} (hxs : IsSorted xs) : IsSorted ⟪insert x xs⟫ := by
+  fun_induction insert x xs with
+  | case1 _ => simp
+  | case2 x y ys ih =>
+    simp only [Bind.bind, Pure.pure]
```
Comment (chenson2018) [inline Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean]: Once you merge `main`, you'll find that all of these `simp` are not needed.

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean [hunk 5]
```diff
@@ -0,0 +1,143 @@
...
+  | case2 x xs ih =>
+    simp [Bind.bind]
+    grind [insert_length]
+
+/-- Time complexity of `insertionSort`. -/
+theorem insertionSort_time (xs : List α) : (insertionSort xs).time ≤ xs.length * xs.length:= by
+  fun_induction insertionSort with
+  | case1 => simp
+  | case2 x xs ih =>
+    simp [Bind.bind]
```
Comment (chenson2018) [inline Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean]: This is the one exception, this should be
```suggestion
    simp only [time_bind, List.length_cons]
```

**Comment by Shreyas4991** [comment]
I suggest merging main. The simp set for TimeM has changed. In fact depending on when main was merged last time, there might be considerable breakage.

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean (hunk 3 above)
Comment (Shreyas4991) [reply Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean:68]: I think SortedLE is deprecated in favour of Pairwise, so this usage is correct. The abbreviation is not necessary however.

**Comment by Shreyas4991** [comment]
Fwiw this PR duplicates List.orderedInsert. See my Prog version of insertionSort in #275.

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean (hunk 3 above)
Comment (bhargavkulk) [reply Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean:68]: `MergeSort.lean` also defines the `IsSorted` abbrev. So, I am not sure if I should inline it.

**Comment by bhargavkulk** [comment]
@chenson2018 I have made the requested changes. See my comment on the `IsSorted` abbrev, I'm not sure if i should inline it; I'll defer to your decision.

File: Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean (hunk 3 above)
Comment (chenson2018) [reply Cslib/Algorithms/Lean/InsertionSort/InsertionSort.lean:68]: @Shreyas4991 I'm not sure that is correct. The deprecation on `List.Sorted` does refer to `List.Pairwise`, but the comment specifically says to consider using `SortedLE`, which is not deprecated and has `sortedLE_iff_pairwise` as a `grind =` lemma. I think it is correct to use `SortedLE` here. (And in the merge sort file, but let's make a separate PR)

**Comment by Shreyas4991** [comment]
Just as a heads up, #275  contains insertionSort already. Also the PR does not seem to pass CI  at the moment.

**Comment by bhargavkulk** [comment]
closing this in favor of #372.
